US08012966B2
2-(5-Bromo-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-5-(2-pyrrolidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one
The title compound was prepared under the same conditions as described in Example 1 with 5-(2-diethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and 5-bromo-1,3-dihydro-indol-2-one as starting materials to give 2-(5-bromo-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-5-(2-pyrrolidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (1.33 g, 94.2%) as an orange solid.

reactant | 5-(2-diethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | C(C)N(CCN1C(C2=C(CC1)NC(=C2C)C=O)=O)CC | C15H23N3O2
reactant | 5-bromo-1,3-dihydro-indol-2-one | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
product | 2-(5-bromo-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-5-(2-pyrrolidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 1.33 g, 94.2% | BrC=1C=C2C(C(NC2=CC1)=O)=CC1=C(C=2C(N(CCC2N1)CCN1CCCC1)=O)C | C23H25BrN4O2
